US05128344
Preparation of 4-Bromosampangine (5).
A mixture of pyridinium bromide perbromide (390 mg, 1.2 mmol) and sampangine, (232 mg, 1.0 mmol) in chloroform (12 mL) was heated at reflux for 15 h. Saturated sodium bicarbonate solution (100 mL) was added to the cooled reaction and the mixture stirred vigorously for 30 min. The two layers were separated and the aqueous phase extracted with chloroform (2×30 mL). The combined organic layers were dried over potassium carbonate and concentrated to dryness. The residual solid was applied to a 2×40 cm column of silica gel (Merck 230-400 mesh) and the pure product (200 mg, 64%) eluted with chloroform, mp 180° C. dec. IR (KBr) 1670, 1590, 1400, 1320, 1310, 1275, 1230, 980, 790, 755, 720 cm-1 ; 1H NMR (CDCl3) δ 9.28 (s, 1 H), 8.99 (d, J=5.9 Hz, 1 H), 8.85 (dd, J= 7.9, 1.4 Hz, 1 H), 8.46 (dd, J=7.9, 1.4 Hz, 1 H), 7.96 (d, J=5.9 Hz, 1 H), 7.86 (ddd, J=7.7, 7.9, 1.4 Hz, 1 H), 7.72 (ddd, J=7.9, 7.9, 1.4 Hz, 1 H); 13C NMR (CDCl3) 181.6 (0), 151.7 (0), 150.2 (1), 148.6 (1), 146.7 (0), 138.6 (0), 135.1 (0), 135.0 (1), 132.3 (0), 131.8 (1), 128.7 (1), 125.8 (1), 123.7 (0), 120.5 (0), 118.3 (1) ppm; HR MS calc. for C15H7BrN2O 309.9741, found 309.9747.

reactant | pyridinium bromide perbromide | 1.2 mmol, 390 mg | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | sampangine | 1.0 mmol, 232 mg | C=1C=CC2=C(C1)C3=C4C(=CC=N3)C=CN=C4C2=O | C15H8N2O
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 12 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromosampangine | C1=CC=C2C(=C1)C3=NC=CC4=C3C(=NC=C4Br)C2=O | C15H7BrN2O
